### PR TITLE
chore: deprecate `LinearOrderedComm{Monoid, Group}WithZero`

### PR DESCRIPTION
**Pull request by astrainfinita**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #20676

### CODE REVIEW

File: Counterexamples/LinearOrderWithPosMulPosEqZero.lean [hunk 1]
```diff
@@ -7,7 +7,7 @@ import Mathlib.Algebra.Order.Monoid.Defs
 import Mathlib.Algebra.Order.GroupWithZero.Canonical
 
 /-!
-An example of a `LinearOrderedCommMonoidWithZero` in which the product of two positive
+An example of a linear ordered commutative monoid with zero in which the product of two positive
```
Comment (grunweg) [inline Counterexamples/LinearOrderWithPosMulPosEqZero.lean:10]:
```suggestion
An example of a linearly ordered commutative monoid with zero in which the product of two positive

File: Counterexamples/LinearOrderWithPosMulPosEqZero.lean [hunk 2]
```diff
@@ -68,18 +68,17 @@ instance commMonoid : CommMonoid Foo where
...
-  zero := 0
-  zero_mul := by boom
-  mul_zero := by boom
-  mul_le_mul_left := by rintro ⟨⟩ ⟨⟩ h ⟨⟩ <;> revert h <;> decide
-  zero_le_one := by decide
-  bot := 0
-  bot_le := by boom
-
-theorem not_mul_pos : ¬∀ {M : Type} [LinearOrderedCommMonoidWithZero M],
+instance : CommMonoidWithZero Foo :=
```
Comment (grunweg) [inline Counterexamples/LinearOrderWithPosMulPosEqZero.lean:71]: Any particular reason why you're using { } and not `where`?

File: Mathlib/Algebra/Order/Field/Canonical.lean [hunk 3]
```diff
@@ -23,14 +23,9 @@ attribute [nolint docBlame] CanonicallyLinearOrderedSemifield.toLinearOrderedSem
...
 
--- See note [reducible non-instances]
-/-- Construct a `LinearOrderedCommGroupWithZero` from a canonically linear ordered semifield. -/
-abbrev CanonicallyOrderedAdd.toLinearOrderedCommGroupWithZero :
-    LinearOrderedCommGroupWithZero α where
-  __ := ‹Semifield α›
-  __ := ‹LinearOrder α›
-  bot := 0
-  bot_le := zero_le
+/-- Construct a `IsOrderedMonoidWithZero` from a canonically linear ordered semifield. -/
```
Comment (grunweg) [inline Mathlib/Algebra/Order/Field/Canonical.lean:26]:
```suggestion
/-- Construct an `IsOrderedMonoidWithZero` from a canonically linear ordered semifield. -/

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 4]
```diff
@@ -29,42 +29,55 @@ The solutions is to use a typeclass, and that is exactly what we do in this file
...
+structure LinearOrderedCommGroupWithZero (α : Type*) extends LinearOrderedCommMonoidWithZero α,
   CommGroupWithZero α
 
-instance (priority := 100) LinearOrderedCommMonoidWithZero.toZeroLeOneClass
-    [LinearOrderedCommMonoidWithZero α] : ZeroLEOneClass α :=
-  { ‹LinearOrderedCommMonoidWithZero α› with }
+attribute [nolint docBlame] LinearOrderedCommMonoidWithZero.toCommMonoidWithZero
+  LinearOrderedCommGroupWithZero.toCommGroupWithZero
+
+/-- An ordered monoid with zero is a “monoid with zero” with a order such that
```
Comment (grunweg) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:49]:
```suggestion
/-- An ordered monoid with zero is a “monoid with zero” with an order such that

File: Mathlib/Algebra/Order/GroupWithZero/Canonical.lean [hunk 5]
```diff
@@ -29,42 +29,55 @@ The solutions is to use a typeclass, and that is exactly what we do in this file
...
+variable [CommMonoidWithZero α] [LinearOrder α] [IsOrderedMonoidWithZero α] {a b : α} {n : ℕ}
 
 /-
 The following facts are true more generally in a (linearly) ordered commutative monoid.
 -/
-/-- Pullback a `LinearOrderedCommMonoidWithZero` under an injective map.
-See note [reducible non-instances]. -/
-abbrev Function.Injective.linearOrderedCommMonoidWithZero {β : Type*} [Zero β] [Bot β] [One β]
-    [Mul β] [Pow β ℕ] [Max β] [Min β] (f : β → α) (hf : Function.Injective f) (zero : f 0 = 0)
+/-- Pullback a `IsOrderedMonoidWithZero` under an injective map. -/
```
Comment (grunweg) [inline Mathlib/Algebra/Order/GroupWithZero/Canonical.lean:67]:
```suggestion
/-- Pullback an `IsOrderedMonoidWithZero` under an injective map. -/

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Review by grunweg — COMMENTED** [review]
I realised I had this review comment sitting around - sending it now.

File: Mathlib/Topology/Algebra/WithZeroTopology.lean [hunk 6]
```diff
@@ -35,14 +35,17 @@ open Topology Filter TopologicalSpace Filter Set Function
 
 namespace WithZeroTopology
 
-variable {α Γ₀ : Type*} [LinearOrderedCommGroupWithZero Γ₀] {γ γ₁ γ₂ : Γ₀} {l : Filter α}
-  {f : α → Γ₀}
-
 /-- The topology on a linearly ordered commutative group with a zero element adjoined.
 A subset U is open if 0 ∉ U or if there is an invertible element γ₀ such that {γ | γ < γ₀} ⊆ U. -/
-scoped instance (priority := 100) topologicalSpace : TopologicalSpace Γ₀ :=
+@[nolint unusedArguments]
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/WithZeroTopology.lean:40]: Which argument does this warn about?

**Review by grunweg — COMMENTED** [review]
I just found this PR again. Can you fix the merge conflicts, then I'll try to review it/find somebody for the last questions I have.

**Comment by YaelDillies** [comment]
This is a very interesting PR to get in. Do you think you could solve the merge conflicts?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
